US06573263B2
7-(1-Acetyl-4-phenylbutyl)-2-(quinolin-6-ylmethyl)-5-methylimidazo[5,1-f][1,2,4]-triazin-4(3H)-one is reacted analogously to Example 12 with sodium borohydride to give 7-[1-(1-hydroxyethyl)-4-phenylbutyl]-2-(quinolin-6-ylmethyl)-5-methylimidazo-[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 7-(1-Acetyl-4-phenylbutyl)-2-(quinolin-6-ylmethyl)-5-methylimidazo[5,1-f][1,2,4]-triazin-4(3H)-one | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC=2C=C1C=CC=NC1=CC2)=O)C | C28H27N5O2
reactant | sodium borohydride | [BH4-].[Na+]
product | 7-[1-(1-hydroxyethyl)-4-phenylbutyl]-2-(quinolin-6-ylmethyl)-5-methylimidazo-[5,1-f][1,2,4]triazin-4(3H)-one | OC(C)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC=2C=C1C=CC=NC1=CC2)=O)C | C28H29N5O2
